US06525202B2
3-Bromo-4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzaldehyde
A mixture of 1,4-dioxa-8-azaspiro[4.5]decane (6.87 g, 48 mmol), 3-bromo-4-fluorobenzaldehyde (8.12 g, 40 mmol), and potassium carbonate (6.63 g, 48 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (12 mL) and acetonitrile (8 mL) was heated at 80° C. under N2 atmosphere for one day. Reaction mixture was cooled down to room temperature and poured onto water (150 mL). The mixture was extracted with methylene chloride. The organic layer was dried (MgSO4) and concentrated to give the title compound as an off-white solid (12.4 g, 96%); mp 63-64° C.; 1H NMR (300 MHz, CDCl3) δ 1.93 (t, J=5.7 Hz, 4H), 3.25 (t, J=5.4 Hz, 4H), 4.02 (s, 4H), 7.12 (d, J=4.2 Hz, 1H), 7.75 (dd, J=8.4, 2.1 Hz, 2H), 8.06 (d, J=1.8 Hz, 1H), 9.84 (s, 1H); MS (ES) m/z: 325.7 (MH+); HRMS Calcd. for C14H16BrNO3 (MH+): 325.0314. Found: 325.0288.

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 48 mmol, 6.87 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 3-bromo-4-fluorobenzaldehyde | 40 mmol, 8.12 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | potassium carbonate | 48 mmol, 6.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 12 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-Bromo-4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzaldehyde | 12.4 g, 96% | BrC=1C=C(C=O)C=CC1N1CCC2(OCCO2)CC1 | C14H16BrNO3
